US08664401B2
Step B) 7-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline
Potassium acetate (391 mg, 3.98 mmol) was added to a solution of quinolin-7-yl trifluoromethanesulfonate (370 mg, 1.32 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (405 mg, 1.60 mmol), and [1,1′-bis-(diphenylphosphino)ferrocene]-dichloropalladium (II) dcm complex (325 mg, 0.40 mmol) in 1,4-dioxane (5.0 mL) in a 20 mL vial. The vial was capped and heated to 80° C. and stirred at this temperature overnight. The reaction was allowed to cool, diluted with ethyl acetate (25 mL) and water (25 mL), filtered through celite (˜1 inch) and the filter pad was washed with ethyl acetate (10 mL). The organic layer was separated, and the aqueous layer was extracted with ethyl acetate (2×30 mL). The combined organics were dried (MgSO4), filtered, and concentrated. Crude material was purified via flash chromatography using an Analogix SF15-24 g column and ethyl acetate in heptane (0-50%) as the eluant to afford the title compound as a white solid (277 mg, 81.3%). LC-MS m/z 256.5 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.40 (s, 12H) 7.40-7.45 (m, 1H) 7.81 (d, J=8.01 Hz, 1H) 7.88-7.95 (m, 1H) 8.12-8.18 (m, 1H) 8.62 (d, J=0.78 Hz, 1H) 8.83-9.01 (m, 1H)

reactant | Potassium acetate | 3.98 mmol, 391 mg | C(C)(=O)[O-].[K+]
reactant | quinolin-7-yl trifluoromethanesulfonate | 1.32 mmol, 370 mg | FC(S(=O)(=O)OC1=CC=C2C=CC=NC2=C1)(F)F | C10H6F3NO3S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 1.60 mmol, 405 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 25 mL | O | H2O
catalyst | [1,1′-bis-(diphenylphosphino)ferrocene]-dichloropalladium (II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 7-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 277 mg, 81.3% | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
